US03993630
C. Preparation of N,N'-dibenzylidene ethylenediamine
A mixture of ethylene diamine (12.02 g; 0.2 mole) and benzaldehyde (42.44 g; 0.4 mole) in toluene (200 ml) was refluxed for 4 hours using a Dean-Stark trap. The toluene was then removed under vacuum. The residual oil crystallized on cooling. The resulting product was dried in a vacuum oven for 24 hours at room temperature and had a melting point of 52°-54° C.

reactant | ethylene diamine | 0.2 mole, 12.02 g | C(CN)N | C2H8N2
reactant | benzaldehyde | 0.4 mole, 42.44 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-dibenzylidene ethylenediamine | C(C1=CC=CC=C1)=NCCN=CC1=CC=CC=C1 | C16H16N2
